US07524875B2
To a 1000 ml round-bottom flask fitted with a thermometer, a nitrogen-introducing tube, and a stirrer were added 132.2 g (1.0 mol) of 2,2-dimethyl-1,3-dioxolane-4-methanol, 231.4 g (1.2 mol) of a 28% methanol solution of sodium methoxide, and 500 ml of toluene. With introduction of nitrogen thereinto, the toluene was refluxed under reduced pressure for 1 hour to remove the methanol by distillation. With maintaining the solution at 80° C., 126.6 g (1.0 mol) of benzyl chloride was added dropwise over a period of 2 hours using a dropping funnel, followed by further 2 hours of reaction. The solvent was removed from the reaction liquid and the residue was purified by distillation (b.p. 93-95° C./266 Pa) to obtain 4-(benzyloxymethyl)-2,2-dimethyl-1,3-dioxolane.

reactant | 2,2-dimethyl-1,3-dioxolane-4-methanol | 1.0 mol, 132.2 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | methanol | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
reactant | benzyl chloride | 1.0 mol, 126.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(benzyloxymethyl)-2,2-dimethyl-1,3-dioxolane | C(C1=CC=CC=C1)OCC1OC(OC1)(C)C | C13H18O3
